### PR TITLE
[Merged by Bors] - feat: add `mvfderivWithin` with (d)elaborators and basic API

### PR DESCRIPTION
**Pull request by grunweg**
Add `mvfderivWithin` (a version of `mvfderiv` within a set) and add analogues of all `mvfderiv` lemmas.
We also add analogous custom elaborators and delaborators. To prove our set-up works, we re-phrase
two lemmas in `VectorField/LieBracket.lean` to use this definition, instead of open-coding it.

In passing, we also note a few areas in differential geometry that rely on similar defeq abuse, and should be cleaned up to use `mvfderiv` (this will be addressed in future PRs).

Part of https://github.com/leanprover-community/mathlib4/pull/36036, i.e. from the path towards the Levi-Civita connection and Riemanian curvature.
Related to fixing defeq abuses related to tangent space and scalar multiplication in mathlib.

---

- [x] depends on: #39485
- [x] depends on: #34257
- [x] depends on: #39554

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by hrmacbeth** [comment]
I think the following should be TODOs, to take advantage throughout the library of the insight that `mvfderiv` is a useful/robust notion for calculus on manifolds:
- deprecate a number of lemmas in the file `Mathlib.Geometry.Manifold.MFDeriv.SpecificFunctions` which use the identification of tangent spaces silently: `HasMFDerivWithinAt.add`, `mfderivWithin_add`, all their variants, and analogues for `sub`, `neg`, `sum`, `smul`
- replace `mfderiv_coe_sphere_injective` and `range_mfderiv_coe_sphere` with statements involving `mvfderiv`
- discuss with the reviewers of the modular forms part of the library whether the `mvfderiv` notion is flexible enough to be the standard calculus notion there. Since differentiability on the upper half plane is defined as a manifold notion, I believe they encounter similar issues, which they currently solve ad-hoc, see e.g. [this comment](https://github.com/leanprover-community/mathlib4/blob/da121d2640cbbc27494af1362579513897a6cf3d/Mathlib/Analysis/Complex/UpperHalfPlane/Manifold.lean#L149-L155)

Do you agree? If so, can you annotate the library with these TODOs in this or a follow-up PR?

**Comment by grunweg** [comment]
> I think the following should be TODOs, to take advantage throughout the library of the insight that `mvfderiv` is a useful/robust notion for calculus on manifolds:
> 
>     * deprecate a number of lemmas in the file `Mathlib.Geometry.Manifold.MFDeriv.SpecificFunctions` which use the identification of tangent spaces silently: `HasMFDerivWithinAt.add`, `mfderivWithin_add`, all their variants, and analogues for `sub`, `neg`, `sum`, `smul`
> 
>     * replace `mfderiv_coe_sphere_injective` and `range_mfderiv_coe_sphere` with statements involving `mvfderiv`
> 
>     * discuss with the reviewers of the modular forms part of the library whether the `mvfderiv` notion is flexible enough to be the standard calculus notion there. Since differentiability on the upper half plane is defined as a manifold notion, I believe they encounter similar issues, which they currently solve ad-hoc, see e.g. [this comment](https://github.com/leanprover-community/mathlib4/blob/da121d2640cbbc27494af1362579513897a6cf3d/Mathlib/Analysis/Complex/UpperHalfPlane/Manifold.lean#L149-L155)
> 
> 
> Do you agree? If so, can you annotate the library with these TODOs in this or a follow-up PR?

I think all these are great ideas. I even wonder of `NormedSpace.fromTangentSpace` should move to `MFDeriv/NormedSpace.lean` instead and be made private. (What do you think?)
I have added the above TODOs, and will start a follow-up PR working on them.

File: Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean [hunk 1]
```diff
@@ -460,6 +570,60 @@ end tests
...
+
+@[simp, to_fun mvfderivWithin_fun_smul]
+lemma mvfderivWithin_smul {a : M → 𝕜} (ha : MDiffAt[s] a x) {g : M → F} (hg : MDiffAt[s] g x)
+    (hs : UniqueMDiffWithinAt I s x) :
+    d[s](a • g) x =
+      a x • d[s] g x + (d[s] a x).smulRight (g x) := by
+  ext v
+  simp [mvfderivWithin, NormedSpace.fromTangentSpace,
+    (ha.hasMFDerivWithinAt.smul hg.hasMFDerivWithinAt).mfderivWithin hs]
+  rfl
```
Comment (hrmacbeth) [inline Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean]:
```suggestion
  refine HasMFDerivWithinAt.mfderivWithin ⟨ha.1.smul hg.1, ?_⟩ hs
  convert ha.hasMFDerivWithinAt.2.smul hg.hasMFDerivWithinAt.2
  simp
  rfl
```
To avoid the defeq-abusing lemma `HasMFDerivWithinAt.smul`.

File: Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean [hunk 2]
```diff
@@ -460,6 +570,60 @@ end tests
...
+
+@[simp, to_fun mvfderivWithin_fun_mul]
+lemma mvfderivWithin_mul {f g : M → 𝕜} {x : M} (hf : MDiffAt[s] f x) (hg : MDiffAt[s] g x)
+    (hs : UniqueMDiffWithinAt I s x) :
+    d[s](f * g) x = f x • d[s]g x + (g x) • (d[s]f x) := by
+  ext v
+  simp only [mvfderivWithin, ← smul_eq_mul, mfderivWithin_smul hf hg hs]
+  simp [mul_comm _ (g x)]
```
Comment (hrmacbeth) [inline Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean]:
```suggestion
  convert mvfderivWithin_smul hf hg hs
  ext v
  simp [mul_comm]
```
To avoid the defeq-abusing lemma `mfderivWithin_smul`.

File: Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean [hunk 3]
```diff
@@ -260,6 +262,38 @@ open NormedSpace ContinuousLinearMap
...
+`f x • g' + toSpanSingleton 𝕜 (g x) ∘L f'`.
+
+In fact, the statement above is not literally true, because, for example, the differential of `g`
+really takes values in the tangent space to `V` at `g x`, rather than in `V` itself. Of course, this
+tangent space can be canonically identified with `V`.
+
+This lemma phrases the formula using the equiv `NormedSpace.fromTangentSpace`, which provides this
+canonical identification. (It would also be possible to phrase the formula without this equiv,
+instead using casting and definitional abuse.) -/
+private lemma HasMFDerivWithinAt.smul
```
Comment (hrmacbeth) [inline Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean]: Delete this one?

File: Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean [hunk 4]
```diff
@@ -306,6 +340,34 @@ theorem MDifferentiableOn.smul (hf : MDiff[s] f)
...
+
+This lemma phrases the formula using the equiv `NormedSpace.fromTangentSpace`, which provides this
+canonical identification. (It would also be possible to phrase the formula without this equiv,
+instead using casting and definitional abuse.)
+
+It is good practice to use the equiv `NormedSpace.fromTangentSpace` throughout a computation. If
+this is done, typically `mfderiv[s] (f • g) x` will only turn up paired with this equiv (i.e., in an
+expression `(fromTangentSpace _) ∘L mfderiv[s] (f • g) x` or `d[s] (f • g) x`),
+and the more convenient lemma `mvderiv_smul` (see below) can be used instead. -/
+private lemma mfderivWithin_smul
```
Comment (hrmacbeth) [inline Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean]: Delete this one?

File: Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean [hunk 5]
```diff
@@ -441,6 +537,20 @@ section tests
 
 variable {f : M → 𝕜}
 
+/-- info: d[s] f : (x : M) → TangentSpace I x →L[𝕜] 𝕜 -/
+#guard_msgs in
+#check mvfderivWithin I f s
+/-- info: d[s] f x : TangentSpace I x →L[𝕜] 𝕜 -/
+#guard_msgs in
+#check mvfderivWithin I f s x
```
Comment (hrmacbeth) [inline Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean]: Is this the conventional place for such tests? (That is, there is no existing `Test` file for the manifold delaborators?)

**Review by hrmacbeth — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/Geometry/Manifold/MFDeriv/SpecificFunctions.lean [hunk 6]
```diff
@@ -784,6 +784,8 @@ theorem MDifferentiableOn.add {s : Set M} (hf : MDiff[s] f) (hg : MDiff[s] g) :
 theorem MDifferentiable.add (hf : MDiff f) (hg : MDiff g) : MDiff (f + g) :=
   fun x ↦ (hf x).add (hg x)
 
+-- TODO: this lemma (and others below) uses the identification of tangent spaces silent
```
Comment (hrmacbeth) [inline Mathlib/Geometry/Manifold/MFDeriv/SpecificFunctions.lean]:
```suggestion
-- TODO: this lemma (and others below) uses the identification of tangent spaces silently
```

File: Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean (hunk 5 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean]: There is a better place - let me move things there.

Comment (grunweg) [reply Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean]: Moved, and extended (to also test a normed space as co-domain, and test both the elaborators and delaborators).

**Comment by grunweg** [comment]
Thanks for the review! I think I have addressed all comments.
